US07056918B2
Sodium metal (1.2 g) was diluted with ethanol (12 mL). After dissolution (1-Cyclobutyl-3-methyl-2-oxo-2,3-dihydro-1H-benzoimidazol-5-yl)-acetonitrile (2.0 g, 8.29 mmol) was added followed by ethyl 3-methyl benzoate (2.0 mL). The reaction was heated to 75° C. for 2.5 hours then cooled and extracted into ethyl acetate from saturated sodium bicarbonate. Chromatography on silica gel gave the desired 2-(1-Cyclobutyl-3-methyl-2-oxo-2,3-dihydro-1H-benzoimidazol-5-yl)-3-oxo-3-m-tolyl-propionitrile.

reactant | Sodium | 1.2 g | [Na] | Na
reactant | (1-Cyclobutyl-3-methyl-2-oxo-2,3-dihydro-1H-benzoimidazol-5-yl)-acetonitrile | 8.29 mmol, 2.0 g | C1(CCC1)N1C(N(C2=C1C=CC(=C2)CC#N)C)=O | C14H15N3O
reactant | ethanol | 12 mL | C(C)O | C2H6O
product | 2-(1-Cyclobutyl-3-methyl-2-oxo-2,3-dihydro-1H-benzoimidazol-5-yl)-3-oxo-3-m-tolyl-propionitrile | C1(CCC1)N1C(N(C2=C1C=CC(=C2)C(C#N)C(C=2C=C(C=CC2)C)=O)C)=O | C22H21N3O2
